US04237227
Mixtures of (1) 2.0 ml. of an aqueous substrate solution prepared by dissolving DL-5-(2-methylthioethyl)hydantoin in a 0.1 M NH4Cl-NH4OH buffer solution of pH 9.5 (substrate concentration: 2.0%) and (2) 2.0 ml. of the above cell suspension were prepared and placed in test tubes, respectively. The hydrolysis reaction was then carried out at 30° C. for one hour without shaking. Immediately after the completion of the reaction, 1.0 ml. of a 10% aqueous solution of trichloroacetic acid, 1.0 ml. of a 10% solution of p-dimethylaminobenzaldehyde in 6 N hydrochloric acid and 6.0 ml. of distilled water were added to each reaction mixture. Each resulting color-developed reaction mixture was centrifuged to remove insoluble materials, and the amounts of N-carbamoylmethionine produced in the reaction mixtures were colorimetrically determined by measuring the absorbance at 420 nm. As a Control, the above procedures were repeated except that no hydantoin compound was employed.

reactant | DL-5 (2-methylthioethyl)hydantoin | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.CSCCN1C(=O)NC(=O)C1
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | p-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | water | O | H2O
solvent | NH4Cl NH4OH | 0.1 M | [NH4+].[Cl-].[NH4+].[OH-]
solvent | hydrochloric acid | 6 N | Cl | ClH
product | N-carbamoylmethionine | C(N)(=O)N[C@@H](CCSC)C(=O)O | C6H12N2O3S
